US04777252
To a solution of 0.47 g (0.75 mmol) of 2-[[[1-(2-amino-4-thiazolyl)-2-[[1-[[[[3-amino-2-oxo-1-imidazolidinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-methylpropanoic acid, dipotassium salt in 10 ml of dimethylformamide was added 0.26 g (0.86 mmol) of 6,7-dimethoxy-2,3-quinoline-dicarboxylic anhydride, and the mixture was stirred overnight at room temperature. After the dimethylformamide was distilled off in vacuo, the residue was dissolved in water and the pH adjusted to 6.5 with 1N potassium hydroxide. Freeze drying yielded 0.76 g of crude product which was purified by column chromatography on XAD resin under mplc conditions with water as eluent to give 0.12 g of 2-[[[1-(2-amino-4-thiazolyl)-2-[[1-[[[[3-[[(3-carboxy-6,7-dihydroxy-2-quinolinyl)carbonyl]amino]-2-oxo-1-imidazolidinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-methylpropanoic acid, tripotassium salt, melting point 240°-280° C., dec., and 0.21 g of a mixture of 2-[[[1-(2-amino-4-thiazolyl)-2-[[1-[[[[3-[[ (3-carboxy-6,7-dihydroxy-2-quinolinyl)carbonyl]amino]-2-oxo-1-imidazolidinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-methylpropanoic acid, tripotassium salt and 2-[[[1-(2-amino-4-thiazolyl)-2-[[1-[[[[3-[[(2-carboxy-6,7-dihydroxy-3-quinolinyl)carbonyl]amino]-2-oxo-1-imidazolidinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-methylpropanoic acid, tripotassium salt in a ratio of ca. 2:1.

reactant | 2-[[[1-(2-amino-4-thiazolyl)-2-[[1-[[[[3-amino-2-oxo-1-imidazolidinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-methylpropanoic acid | 0.75 mmol, 0.47 g | NC=1SC=C(N1)C(C(=O)NC1C(N(C1)C(=O)NS(=O)(=O)N1C(N(CC1)N)=O)=O)=NOC(C(=O)O)(C)C | C16H21N9O9S2
reactant | 6,7-dimethoxy-2,3-quinoline-dicarboxylic anhydride | 0.86 mmol, 0.26 g | COC=1C=C2C=C3C(=NC2=CC1OC)C(=O)OC3=O | C13H9NO5
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[[[1-(2-amino-4-thiazolyl)-2-[[1-[[[[3-[[(3-carboxy-6,7-dihydroxy-2-quinolinyl)carbonyl]amino]-2-oxo-1-imidazolidinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-methylpropanoic acid | 0.12 g | NC=1SC=C(N1)C(C(=O)NC1C(N(C1)C(=O)NS(=O)(=O)N1C(N(CC1)NC(=O)C1=NC2=CC(=C(C=C2C=C1C(=O)O)O)O)=O)=O)=NOC(C(=O)O)(C)C | C27H26N10O14S2
